US20010005757A1
3β-(Acetyloxy)-5α-cholest-8-ene-6α-ol (124 mg) is dissolved in 20 ml ethanol. Solid potassium hydroxyde (710 mg) is added and the reaction mixture is stirred for 2 hours. After aqueous work-up, 5β-cholest-8-ene-3β,6β-diol (96 mg) is isolated.

reactant | 3β-(Acetyloxy)-5α-cholest-8-ene-6α-ol | 124 mg | C(C)(=O)O[C@@H]1C[C@@H]2[C@H](CC=3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CC1)C)C)O | C29H48O3
reactant | potassium | [K] | K
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5β-cholest-8-ene-3β,6β-diol | 96 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2C=3C[C@H]([C@@H]4C[C@H](CC[C@]4(C)C3CC[C@]12C)O)O | C27H46O2
